US06462198B1
N-[5-(2-Methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-2,2-diphenyl-acetamide.
The title compound, white solid, m.p. 114-115° C. and MS: m/e=338.2 (M+H+) was prepared in accordance with the general method of example 44a from 2,2-diphenylacetic acid chloride and [5-(2-methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-amine.

reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | [5-(2-methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-amine | COCCC1=NN=C(O1)N | C5H9N3O2
product | N-[5-(2-Methoxy-ethyl)-[1,3,4]oxadiazol-2-yl]-2,2-diphenyl-acetamide | COCCC1=NN=C(O1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H19N3O3
